Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___
 
Chief Complaint:
Diarrhea
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ with history of seizures, HTN, HLD, DM, CAD 
s/p CABG, now presenting with ___ weeks of diarrhea.

She has had diarrhea for the past ___ weeks. The loose stools 
started approximately 4 days after her last discharge (She was 
recently admitted from ___ to ___ for seizure monitoring. At 
that time she was switched from dilantin to gabapentin). She has 
loose stools approximately every other day, and on some days she 
has no bowel movements. She describes the stools as 
watery/clumpy, with small streaks of blood recently which her 
daughter thinks may be secondary to repeated wiping. She has 
been wearing adult diapers which she has never required before. 
Reportedly yesterday she had ~25 episodes of loose stools. 
Notably she has had constipation at baseline since starting the 
fentanyl patch many years ago. No recent antibiotic use. She has 
had some nausea but no vomiting. She has been able to eat during 
this time but less than her baseline.

She also complains of leg weakness which is worse for the past 2 
weeks. She had a fall 9 days ago when her legs gave out under 
her while she was walking. She was caught by her daughter, did 
not lose consciousness or hit her head.

She also complains of thumb pain, which she attributes to injury 
sustained when trying to push herself up using her hands from a 
seated position.

In the ED, initial VS were 98.7 54 127/49 16 97% RA.   
Exam significant for 1+ pitting edema to ___ bilaterally, up to 
knee. 
Labs significant for WBC 10.8, H/H 10.5/32.4, Cr 1.2 (baseline 
~1.0). No imaging or interventions were performed.
Transfer VS were 98.2 56 119/55 17 99% NC.
  
On arrival to the floor, patient reports mild RLQ abdominal 
pain. Also endorses headache of unknown time course.

REVIEW OF SYSTEMS:  
Denies fever, chills, night sweats, vision changes, rhinorrhea, 
congestion, sore throat, cough, shortness of breath, chest pain, 
nausea, vomiting, constipation, hematochezia, dysuria, 
hematuria.  
All other 10-system review negative in detail.  
 
Past Medical History:
 
- Diabetes mellitus type II
- Dyslipidemia  
- Hypertension  
- CAD  
- CABG in ___ LIMA to the LAD, s/p PCI in ___
- CVA x 3 with memory deficit and residual weakness in LLE  
- Seizure disorder  
- COPD  
- Peripheral neuropathy  
- Cocaine abuse  
- Nephrolithiasis  
- Chronic pain syndrome  
- Visual loss OD (from glaucoma)  
- s/p cholecystectomy  
- s/p appendectomy  
- s/p hysterectomy  
- S/P right knee surgery  
- S/P right elbow surgery  
- s/p cataract surgery  

 
Social History:
___
Family History:
Mother with alcohol dependence, sister with depression and a son 

with ___ abuse.

 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
98.1 105/45 60 20 98(2L) FSBG 186
GENERAL: NAD  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
patent nares, MMM, good dentition, nontender supple neck, no 
LAD, no JVD. R eye opacity noted.
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: Coarse breath sounds, exam limited by patient vocalization 
during breaths. Endorses some discomfort with deep breaths. 
Otherwise CTAB, breathing comfortably without use of accessory 
muscles.
ABDOMEN: nondistended, +BS. Endorses RLQ tenderness to 
palpation, no masses noted. No rebound/guarding. Negative 
___ sign.
EXTREMITIES: Moving all extremities well. 1+ pitting edema 
bilaterally to knees.
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII intact. ___ Hz shaking of bilateral arms and 
legs.
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes  
 
DISCHARGE PHYSICAL EXAM:  
98.2 98.6 ___ 18 94RA
GENERAL: Lying in bed, NAD
HEENT: No petechiae. Anicteric sclera, MMM, nontender supple 
neck, no LAD, no JVD. R eye opacity noted.
CARDIAC: Normal S1/S2. No murmurs, gallops, or rubs  
LUNG: CTAB. Breathing comfortably
ABDOMEN: Nondistended, +BS. Nontender, no rebound/guarding.
EXTREMITIES: Moving all extremities well. Peripheral edema 
improved.
PULSES: 2+ DP pulses bilaterally  
NEURO: A/O x3.
SKIN: Warm and well perfused. No rashes.
 
Pertinent Results:
EKG ___:
Sinus rhythm. Poor R wave progression. Compared to the previous 
tracing there are modest lateral ST-T wave changes. Compared to 
the previous tracing of ___ there is no significant 
diagnostic change. 
  Intervals Axes 
Rate PR QRS QT/QTc P QRS T 
60 146 70 ___ 43 
 

___ 03:55AM BLOOD WBC-10.8 RBC-3.54* Hgb-10.5* Hct-32.4* 
MCV-92 MCH-29.7 MCHC-32.5 RDW-13.0 Plt ___
___ 06:05AM BLOOD WBC-11.9* RBC-4.00* Hgb-11.4* Hct-36.1 
MCV-90 MCH-28.4 MCHC-31.5 RDW-13.3 Plt ___
___ 03:55AM BLOOD Neuts-61.3 ___ Monos-6.1 Eos-2.9 
Baso-0.7
___ 03:55AM BLOOD Glucose-167* UreaN-32* Creat-1.2* Na-139 
K-4.6 Cl-108 HCO3-22 AnGap-14
___ 06:05AM BLOOD Glucose-190* UreaN-22* Creat-1.1 Na-141 
K-4.3 Cl-101 HCO3-28 AnGap-16
___ 10:00AM BLOOD ALT-30 AST-26 AlkPhos-217* Amylase-30 
TotBili-0.3
___ 06:05AM BLOOD Calcium-9.1 Phos-3.0 Mg-1.5* Iron-PND
___ 03:55AM BLOOD TSH-2.7
 
Brief Hospital Course:
Ms. ___ is a ___ with history of seizures, HTN, HLD, DM, CAD 
s/p CABG, presenting with ___ weeks of diarrhea and report of 
falls at home.

# Diarrhea:
Resolved. She reported worsening loose stools for ___ weeks. 
However she had no bowel movements during her hospital stay, 
with the exception of one very small stool which she said was 
not saved. She was subsequently restarted on a bowel regimen for 
ongoing constipation (which has been her baseline since starting 
the fentanyl patch).

Differential diagnosis for her history of diarrhea includes 
gabapentin drug effect, IBS, viral infection. Unlikely to be 
new-onset IBD (given questionable history of blood in stools). 
Colon cancer or divertiulitis unlikely given recent colonoscopy 
with single sessile 8mm polyp of benign appearance. Narcotic 
withdrawal unlikely as patient reports stable dose of Fentanyl 
patch, and no other narcotic use recently. She is s/p 
appendectomy and cholecystectomy, with no nausea/vomiting to 
suggest partial bowel obstruction. No recent dietary changes to 
suggest new presentation of lactose intolerance or Celiac 
disease. We were unable to obtain a stool sample to pursue 
continued workup in the inpatient setting. 

# Back pain:
She had back pain on the morning of ___ which woke her from 
sleep. The pain radiated across her back and left shoulder, and 
she reported never having this type of pain before. Cardiac 
workup including EKG and troponin did not reveal evidence of 
cardiac ischemia. Amylase/lipase and AST/ALT/Tbili were in the 
normal range. Her back pain was felt to be most likely 
musculoskeletal in the setting of her recent fall.

# Weakness:
ESR was mildly elevated but not into the range typically 
concerning for polymyalgia rheumatica. CK normal. This symptom 
is most likely related to her known autonomic dysfunction. She 
was evaluated by Physical Therapy and found to be at high fall 
risk. Rehabilitation was recommended, to which patient agreed.

# UTI: She had marginal Dipstick/UA but did report urinary 
frequency. She received ciprofloxacin x3 days (first day was 
___ for empiric treatment of UTI.

CHRONIC ISSUES:
# Ankle swelling:
Chronic. She had ECHO on ___ with elongated left atrium, normal 
left ventricular size, LVEF>55%. Abnormal septal 
motion/position, moderate pulmonary artery systolic hypertension 
were noted. Her albumin is normal, total protein very mildly low 
(6.3). DVT was thought to be unlikely given edema is bilateral.

# Postural instability:
She has known autonomic dysfunction followed by neurology. She 
did have history of recent fall, but did not hurt her head.

# T2DM: On bedtime 25 glargine and humalog sliding scale at 
home. Poorly controlled at baseline. She was seen by ___ 
here, and subsequently we increased her nighttime glargine and 
sliding scale.

# Chronic pain:
- Continued Fentanyl Patch 100 mcg/h TD Q72H 

# Dementia:
- Continued Memantine 5 mg PO BID 
- Continued Donepezil 10 mg PO HS 

# Depression:
- Continued Sertraline 200 mg PO DAILY 

# Seizure disorder:
- Continued Gabapentin 300 mg PO BID 

# CAD:
- Continued Isosorbide Mononitrate (Extended Release) 30 mg PO 
DAILY 
- Continued Aspirin, Atorvastatin, Clopidogrel

# GERD: 
- Received Omeprazole 40 mg daily (on esomeprazole at home)

# Glaucoma:
- Continued Travatan Z (travoprost) 0.004 % ophthalmic QPM to 
left eye
- Continued eye drops

TRANSITION ISSUES:
- She had no episodes of diarrhea during her admission. If this 
problem recurs in the outpatient setting she can have outpatient 
diarrhea workup.
- Continue neurology outpatient follow-up for leg weakness.
- Metoprolol was held at last admission and continued to be held 
given history of falls and dizziness. She may need to be 
restarted on this medication if appropriate in the outpatient 
setting.
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Albuterol Inhaler 2 PUFF IH Q6H:PRN wheezing 
2. Aspirin 325 mg PO DAILY 
3. Atorvastatin 80 mg PO DAILY 
4. Clopidogrel 75 mg PO DAILY 
5. Donepezil 10 mg PO HS 
6. Fentanyl Patch 100 mcg/h TD Q72H 
7. Fluticasone Propionate NASAL 1 SPRY NU BID 
8. HydrOXYzine 25 mg PO TID:PRN itching 
9. Memantine 5 mg PO BID 
10. Sertraline 200 mg PO DAILY 
11. Gabapentin 300 mg PO BID 
12. Isosorbide Mononitrate (Extended Release) 30 mg PO DAILY 
13. Clobetasol Propionate 0.05% Ointment 1 Appl TP BID 
14. esomeprazole magnesium 40 mg oral Daily 
15. Mupirocin Cream 2% 1 Appl TP BID 
16. Nitroglycerin SL 0.3 mg SL PRN chest pain 
17. Travatan Z (travoprost) 0.004 % ophthalmic QPM 
18. HumaLOG KwikPen (insulin lispro) 100 unit/mL subcutaneous 
Qnoon 
19. Glargine 34 Units Bedtime
20. Vitamin D 1000 UNIT PO DAILY 
21. Docusate Sodium 100 mg PO BID 
22. Hydrocerin 1 Appl TP BID:PRN dryness, irritation 
23. Artificial Tears Preserv. Free 1 DROP BOTH EYES Q6H dryness 
24. Acetaminophen 325 mg PO Q6H:PRN pain 
25. Metoprolol Tartrate 12.5 mg PO BID 
26. ValACYclovir 1000 mg PO Q12H:PRN outbreak 

 
Discharge Medications:
1. Acetaminophen 325 mg PO Q6H:PRN pain 
2. Albuterol Inhaler 2 PUFF IH Q6H:PRN wheezing 
3. Artificial Tears Preserv. Free 1 DROP BOTH EYES Q6H dryness 
4. Aspirin 325 mg PO DAILY 
5. Clobetasol Propionate 0.05% Ointment 1 Appl TP BID 
6. Clopidogrel 75 mg PO DAILY 
7. Donepezil 10 mg PO HS 
8. Fentanyl Patch 100 mcg/h TD Q72H 
9. Fluticasone Propionate NASAL 1 SPRY NU BID 
10. Gabapentin 300 mg PO BID 
11. Hydrocerin 1 Appl TP BID:PRN dryness, irritation 
12. HydrOXYzine 25 mg PO TID:PRN itching 
13. Isosorbide Mononitrate (Extended Release) 30 mg PO DAILY 
14. Memantine 5 mg PO BID 
15. Sertraline 200 mg PO DAILY 
16. Travatan Z (travoprost) 0.004 % ophthalmic QPM 
17. Vitamin D 1000 UNIT PO DAILY 
18. Esomeprazole Magnesium 40 mg ORAL DAILY 
19. Nitroglycerin SL 0.3 mg SL PRN chest pain 
20. ValACYclovir 1000 mg PO Q12H:PRN outbreak 
21. Glargine 26 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin
22. Atorvastatin 20 mg PO DAILY 
23. Docusate Sodium 100 mg PO DAILY 
24. Fiber (calcium polycarbophil) (calcium polycarbophil) 625 mg 
oral Twice a day 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
possible viral syndrome

Secondary:
DMII uncontrolled with autonomic dysfunction

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure being part of your care at ___. You were 
admitted to the hospital due to diarrhea. You did not have any 
diarrhea in the hospital, but you did experience back pain which 
was new for you. We underwent workup including cardiac enzymes, 
EKGs and pancreatic/liver enzymes, which did not reveal any 
evidence that dysfunction of the heart, pancreas or liver was 
causing your pain. Your pain improved over the course of your 
admission. You were also found to have a possible urinary tract 
infection, and you were treated with 3 days of antibiotics. You 
were also seen by the ___ diabetes specialists who made 
recommendations regarding your hospital insulin regimen. 

Because you were found to be unsteady on your feet with a high 
fall risk, rehabilitation was recommended and you agreed. We 
hope that their exercises will improve your strength and 
stability. 

Thank you for allowing us to be part of your care. Please ensure 
that you keep your existing medical follow-up appointments 
(details below).
 
Followup Instructions:
___